US07994168B2
N-[6-(4-Chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]-1-(2-dimethylamino-3-methylbutyryl)pyrrolidine-2-carboxamide
15 μl of formaldehyde, 15 μl of glacial acetic acid and 62.8 μl of a 1M sodium cyanoborohydride solution in THF are added to a solution of 40 mg of N-[6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]-1-(2-amino-3-methylbutyryl)pyrrolidine-2-carboxamide in 556 μl of methanol and 278 μl of methylene chloride. The reaction mixture is stirred at room temperature for 6 h. The solvent is then removed in vacuo, and the residue is taken up in ethyl acetate and water. The aqueous phase is extracted twice with ethyl acetate, and the combined organic phases are dried over sodium sulfate and filtered, and the solvent is removed in vacuo. The resulting crude product is separated by HPLC (Knauer Eurospher-100-10-C18, water (0.1% trifluoroacetic acid)/acetonitrile (0.1% trifluoroacetic acid)=80/20→10/90). The desired product is obtained with MW=782.22 (calculated, monoisotopic); measured value (M+H)+: 783.35.

reactant | formaldehyde | 15 μl | C=O | CH2O
reactant | acetic acid | 15 μl | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1M | C(#N)[BH3-].[Na+]
reactant | N-[6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]-1-(2-amino-3-methylbutyryl)pyrrolidine-2-carboxamide | 40 mg | ClC1=CC=C(CC2C(N(CC3N2C(C(CN3S(=O)(=O)C3=C(C=C(C=C3)Cl)Cl)NC(=O)C3N(CCC3)C(C(C(C)C)N)=O)=O)C(C)C)=O)C=C1 | C33H41Cl3N6O6S
reactant | THF | C1CCOC1 | C4H8O
solvent | methanol | 556 μl | CO | CH4O
solvent | methylene chloride | 278 μl | C(Cl)Cl | CH2Cl2
product | N-[6-(4-Chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]-1-(2-dimethylamino-3-methylbutyryl)pyrrolidine-2-carboxamide | ClC1=CC=C(CC2C(N(CC3N2C(C(CN3S(=O)(=O)C3=C(C=C(C=C3)Cl)Cl)NC(=O)C3N(CCC3)C(C(C(C)C)N(C)C)=O)=O)C(C)C)=O)C=C1 | C35H45Cl3N6O6S
